US08022209B2
A solution of 3-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-phenol (150 mg, 0.55 mmol) in CH2Cl2 (5 mL) was treated with pyridine (0.5 mL) and trifluoromethanesulfonic anhydride (170 mg, 0.6 mmol). After 5 h at room temperature, the resulting mixture was poured into water and extracted with CH2Cl2. The organic layer was dried and concentrated, and the resulting residue was purified by preparative TLC (MeOH/CH2Cl2) to yield trifluoro-methanesulfonic acid 3-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-phenyl ester as an oil.

reactant | 3-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-phenol | 0.55 mmol, 150 mg | CN1CCN(CC1)C1=CC(=NC=C1)C=1C=C(C=CC1)O | C16H19N3O
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.6 mmol, 170 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 3-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-phenyl ester | CN1CCN(CC1)C1=CC(=NC=C1)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C17H18F3N3O3S
